US04921852
To a mixture of 4-hydroxymethyl-2,2-dimethyl-1,3-dioxolane (5.35 g) and pyridine (15.65 g) in dichloromethane (200 ml) was added acetic anhydride (20.56 g), and the mixture was stirred at ambient temperature for 12 hours. The mixture was poured into a mixture of water and ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium hydrogen carbonate and brine successively, dried over magnesium sulfate, and evaporated in vacuo to give 4-acetoxymethyl-2,2-dimethyl-1,3-dioxolane (6.02 g).

reactant | 4-hydroxymethyl-2,2-dimethyl-1,3-dioxolane | 5.35 g | OCC1OC(OC1)(C)C | C6H12O3
reactant | pyridine | 15.65 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 20.56 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-acetoxymethyl-2,2-dimethyl-1,3-dioxolane | 6.02 g | C(C)(=O)OCC1OC(OC1)(C)C | C8H14O4
